* source FIRST
V_V1         N00099 0 1V
R_R1         N00099 N00106  1k TC=0,0 
R_R2         N00106 N00110  2k TC=0,0 
R_R3         0 N00110  3k TC=0,0 
R_R4         N00275 N00282  1k TC=0,0 
C_C1         0 N00282  3u  TC=0,0 
V_V2         N00275 0  
+PULSE 0 1 10m 1u 1u 20m 40m
